US07923456B2
5-(4-Bromo-2-fluorophenylamino)-N-(cyclopropyl-methoxy)imidazo[1,5-a]pyrazine-6-carboxamide
The title compound was prepared in an analogous fashion to N-(cyclopropylmethoxy)-5-(2-fluoro-4-iodophenylamino)imidazo[1,5-a]pyrazine-6-carboxamide, using 5-(4-bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid methyl ester as the starting material. 1H NMR (MeOD, 400 MHz) δ ppm 8.74 (s, 1H), 7.87 (s, 1H), 7.84 (s, 1H), 7.48 (dd, J=10.4 Hz, 3.2 Hz, 1H), 7.30 (d, 8.4 Hz, 1H), 6.75 (t, J=8.4 Hz, 1H), 3.79 (d, J=7.2 Hz, 2H), 1.26-1.13 (m, 1H), 0.62-0.55 (m, 2H), 0.36 to 0.30 (m, 2H); LCMS (method D1): RT=0.985 min, [M+H]+=420/422.

reactant | N-(cyclopropylmethoxy)-5-(2-fluoro-4-iodophenylamino)imidazo[1,5-a]pyrazine-6-carboxamide | C1(CC1)CONC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C17H15FIN5O2
reactant | 5-(4-bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid methyl ester | COC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)Br)F)C=NC2 | C14H10BrFN4O2
product | 5-(4-Bromo-2-fluorophenylamino)-N-(cyclopropyl-methoxy)imidazo[1,5-a]pyrazine-6-carboxamide | BrC1=CC(=C(C=C1)NC1=C(N=CC=2N1C=NC2)C(=O)NOCC2CC2)F | C17H15BrFN5O2
